US05552397
a) (R*)-N-(2-Phthalimido-6-hydroxy-1-oxohexyl)-L-phenylalanine, ethyl ester
To a solution of L-phenylalanine, ethyl ester, hydrochloride salt (998 mg., 4.3 mmol.) in dimethylformamide (10 ml.) was added 4-methylmorpholine (575 μl., 529 mg, 5.2 mmol). After stirring at room temperature for 5 minutes, the solution was cooled to 0° C. and treated successively with (S)-2-phthalimido-6-hydroxyhexanoic acid (1.002 g., 3.6 mmol.), hydroxybenzotriazole (582 mg., 4.3 mmol.), and ethyl-3-(3-dimethylamino)propyl carbodiimide, hydrochloride salt (770 mg., 4.0 mmol.). The resulting mixture was stirred at 0° C. for 0.5 hour and at room temperature for 1.5 hours. The solution was partitioned between ethyl acetate and water and the organic extract was washed successively with 0.5N hydrochloric acid, water, 50% saturated sodium bicarbonate, and brine, then dried (sodium sulfate), filtered and stripped to give 1.63 g. of essentially pure title product as an oil/foam. TLC (acetone:hexanes, 1:1) Rf =0.30.

reactant | L-phenylalanine, ethyl ester, hydrochloride salt | 4.3 mmol, 998 mg | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)OCC
reactant | 4-methylmorpholine | 5.2 mmol, 575 μl, 529 mg | CN1CCOCC1 | C5H11NO
reactant | (S)-2-phthalimido-6-hydroxyhexanoic acid | 3.6 mmol, 1.002 g | C1(C=2C(C(N1[C@H](C(=O)O)CCCCO)=O)=CC=CC2)=O | C14H15NO5
reactant | hydroxybenzotriazole | 4.3 mmol, 582 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R*)-N-(2-Phthalimido-6-hydroxy-1-oxohexyl)-L-phenylalanine, ethyl ester | C1(C=2C(C(N1C(C(=O)N[C@H](CC1=CC=CC=C1)C(=O)OCC)CCCCO)=O)=CC=CC2)=O | C25H28N2O6
